US05068356
N-[3-(3,5-di-t-butyl-4-hydroxyphenyl)propanamido]maleimide
A mixture of maleic anhydride (4.9 g, 50.0 mmol), 3-(3,5-di-t-butyl-4-hydroxyphenyl)propanoic acid hydrazide (15.2 g, 50.0 mmol) and 250 ml of xylene was refluxed for one hour under a nitrogen atmosphere with the azeotropic removal of water. The solvent was then removed on a rotary evaporator. The residual mass was extracted with 100 ml of tetrahydrofuran and the extract was added to 500 ml of hexane to precipitate the product. The product was collected by filtration and air dried. 16.1 g of a solid material was obtained having a melting range of 90°-94° C.

reactant | maleic anhydride | 50.0 mmol, 4.9 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 3-(3,5-di-t-butyl-4-hydroxyphenyl)propanoic acid hydrazide | 50.0 mmol, 15.2 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NN | C17H28N2O2
reactant | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | N-[3-(3,5-di-t-butyl-4-hydroxyphenyl)propanamido]maleimide | 16.1 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NN1C(C=CC1=O)=O | C21H28N2O4
